US06627629B2
Part G. Preparation of [(S)-3-(4-Fluoro-benzyl)-piperidin-1-yl]-[(3S,4R)-3-((R)-1-phenyl-ethylamino)-tetrahydro-pyran-4-yl]-methanone
A cloudy solution of (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid (containing sodium chloride; 943 mg, 2.57 mmol) in dichloromethane (25 mL) was treated with benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate (1.61 g, 3.09 mmol) and triethylamine (826 μL, 5.92 mmol) and stirred for 5 minutes. A solution of the (S)-3-(4-fluorobenzyl)-piperidine prepared above in dichloromethane (5 mL) was added and the mixture was stirred at room temperature. After 18 h , the mixture was washed with water and saturated NaHCO3, dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (75% ethyl acetate/hexanes) to provide the product as a gum (1.10 g, 100%). 1H NMR (300 mHz, CDCl3) δ7.4-7.3 (m, 5H), 7.12 (m, 2H), 6.99 (t, 2H), 4.55 (bd, 1H), 3.87 (m, 2H), 3.70 (m, 2H), 3.4-2.8 (m, 3H), 2.66 (m, 2H), 2.42 (m, 2H), 2.0-1.1 (m, 9H), 1.34 (d, J=6.6 Hz, 3H), ESI MS: (M+H)+=425.3.

reactant | (3S,4R)-3-[(R)-1-Phenyl-ethylamino]-tetrahydro-pyran-4-carboxylic acid | 2.57 mmol, 943 mg | C1(=CC=CC=C1)[C@@H](C)N[C@@H]1COCC[C@H]1C(=O)O | C14H19NO3
reactant | benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate | 3.09 mmol, 1.61 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | triethylamine | 5.92 mmol, 826 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-3-(4-fluorobenzyl)-piperidine | FC1=CC=C(C[C@H]2CNCCC2)C=C1 | C12H16FN
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [(S)-3-(4-Fluoro-benzyl)-piperidin-1-yl]-[(3S,4R)-3-((R)-1-phenyl-ethylamino)-tetrahydro-pyran-4-yl]-methanone | 1.10 g, 100% | FC1=CC=C(C[C@H]2CN(CCC2)C(=O)[C@H]2[C@@H](COCC2)N[C@H](C)C2=CC=CC=C2)C=C1 | C26H33FN2O2
